US04218477
A. Synthesis of 2-bromo-2'-ethyl-6'-methylpropionanilide.
To a two-phase system, containing an aqueous sodium hydroxide solution (20 g sodium hydroxide in 200 ml water) and a mixture of 13.5 g 2-ethyl-2-methylaniline and 75 ml toluene (cooled to 8° C.), was added dropwise with stirring 25 g 2-bromopropionyl bromide. After this addition, stirring was continued for 15 min. and the formed crystals were filtered off. (Addition of petroleum ether to the filtrate precipitates more product, which can be added to the first crop). Total yield: 22.8 g (84%). After recrystallization from ether-petroleum ether, it melted at 181°-182° C.

reactant | sodium hydroxide | 200 ml, 20 g | [OH-].[Na+]
reactant | 2-ethyl-2-methylaniline | 13.5 g | C(C)C1(C(N)C=CC=C1)C | C9H15N
reactant | 2-bromopropionyl bromide | 25 g | BrC(C(=O)Br)C | C3H4Br2O
reactant | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
product | 2-bromo-2'-ethyl-6'-methylpropionanilide | BrC(C(=O)NC1=C(C=CC=C1C)CC)C | C12H16BrNO
